* C:\!MSPICE_ForPublication\TestNet_Lite.asc
Rgnd 0  T1MID  {Rgnd}
Vg GDH_SINK  0  PWL(0 0 605n 0 645n 15 1365n 15 1405n 0)
Lload DCPLUS_LLOAD  L_SOURCE  {Lload}
Vtemp Utmp  0  25
Rg Rgp  Source_GDOUT  {Rg}
XTL LOWDRN_SOURCE  Source_TG  Kelvin_Source  ISHUNT_SOURCE  Utmp  Utmp  C3M0030090K
XTU DCPLUS_TOPFET  Ts  Ts  TOPSRC_SINK  Utmp  Utmp  C3M0030090K
Cdc1 DCPLUS_BCAP1  DCMIN_BIGCAP  4.7u
Lgext Rgp  Sink_TG  0.1n
Rvp DCPLUS_BCAP  DCPLUS_BCAP1  7m
Rvm DCPLUS_SCAP  DCPLUS_SCAP1  70m
Rprobe VMEAS_SOURCE  0  10MEG
Cprobe VMEAS_SOURCE  0  10p
Cdc2 DCPLUS_SCAP1  DCMIN_SCAP  100n
Vdc1 DCPLUS_BCAP  DCMIN_BIGCAP  {V_dc}
.params Name = Value  Name2 = Value2 
.tran 1.000000e-09 5.000000e-06 1.000000e-09 
.options method = trap 
.options gmin = 1e-12 
.options abstol = 1e-12 
.options reltol = 0.0001 
.options chgtol = 1e-14 
.options trtol = 1 
.options vntol = 1e-07 
.options sstol = 0.001 
.options cshunt = 1e-17 
.options mindeltagmin = 1e-05 
.include C3M0030090K.lib
.include DPT_PCB3_1_800kHz.cir
.ic I(Lload)=1 
 
.backanno
.end
